2177-05-01 07:26:00 Physician Resident Progress Note
Chief Complaint: [**2177-4-30**]
   - around noon developed increased bleeding around trach and also slow
   pooling in post OP. ENT called and pt sedated/transiently paralyzed
   with propofol/vecuronium and put back on vent for ENT packing of mouth.
   - Rad onc consult called as family now wished to transfer all medical
   care to [**Hospital1 19**], plan to start radiation at 10am on [**5-1**] if stable to go
   to [**Hospital Ward Name **]
   - spoke to bed facilitator to get pt transfered to [**Hospital Unit Name 1**]
   - rad onc requesting onc data from Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 2760**] ([**Telephone/Fax (1) 7396**].
   Spoke to Dr. [**Last Name (STitle) 2760**]. Per Dr. [**Last Name (STitle) 2760**], he has terrible performance
   status, and recommmended that we get medical onc to see him. He
   suggested weekly erbitux (Ab to EGF receptor)
   - OSH pathology [**Hospital3 1959**] Hosp medical records [**Telephone/Fax (1) 4103**] to be
   faxed to us today.
   - transfused 2UPRBCs
   - IR placed IVF filter and coiled branches of inferior thyroid artery
   - family meeting: if rebleeds would want ENT surgery with resection
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-4-30**] 01:00 PM
 ANGIOGRAPHY - At [**2177-4-30**] 03:15 PM
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2177-4-30**] 05:32 AM
   Vancomycin - [**2177-4-30**] 08:00 PM
   Cefipime - [**2177-4-30**] 10:00 PM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-4-30**] 09:00 AM
   Lorazepam (Ativan) - [**2177-4-30**] 12:50 PM
   Propofol - [**2177-4-30**] 01:15 PM
   Vecuronium - [**2177-4-30**] 01:30 PM
   Labetalol - [**2177-4-30**] 02:15 PM
   Ranitidine (Prophylaxis) - [**2177-4-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-1**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 87 (78 - 105) bpm
   BP: 137/72(87) {121/66(80) - 179/91(111)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,513 mL
                                                                    302 mL
   PO:
             TF:
   IVF:
                                                                  2,154 mL
                                                                    302 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,580 mL
                                                                    370 mL
   Urine:
                                                                  1,580 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    933 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/45/170/27/5
   Ve: 8.5 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General Appearance: Thin, sedated
   HEENT: PERRL, mouth is packed with gauze
   CV: Distant. RRR No m/r/g
   Resp: Coarse rhonchorous BS throuhgout. No w/r
   Abd: Soft. NTND +BS. No HSM
   Ext: 2+RLE edema to upper calf with erythema. Trace edema LLE
   Labs / Radiology
   488 K/uL
   9.7 g/dL
   116 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   13 mg/dL
   95 mEq/L
   130 mEq/L
   27.8 %
   18.0 K/uL
        [image002.jpg]
                             [**2177-4-30**]  10:37 AM
                             [**2177-4-30**]  08:40 PM
                             [**2177-4-30**]  08:58 PM
                             [**2177-4-30**]  09:59 PM
                             [**2177-5-1**]  04:06 AM
   WBC
   12.2
   18.0
   Hct
   25.6
   29.1
   27.8
   Plt
   559
   488
   Cr
   0.5
   0.5
   TCO2
   31
   Glucose
   112
   116
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:4.7 mg/dL
   Microbiology: Sputum: gram stain contaminated
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEMOPTYSIS
   67-yo man w/ SCC of the larynx s/p coil embolization of right inferior
   thyroid artery for hypopharyngeal bleed [**3-/2177**], s/p trache and PEG
   [**3-/2177**], admitted for right LE DVT, now w/ significant bleeding from
   trache site.
   .
   #. Bleeding from trache site - Initially stable upon arrival to ICU;
   however, on hosp day 2, developed slow, persistant bleeding around
   trachea and into posterior oropharynx. Packed by ENT and now s/p
   embolization of sup/inf thyroid artery by neuron IR. Hct currently
   stable.
   - if rebleeds, family would want aggressive ENT surgery
   - will get mapping and XRT today on [**Hospital Ward Name **]
   - appreciate ENT, Rad-Onc involvement
   - follow-up Oncology recs regarding additional chemo (? Cisplatin)
   - maintain active T&S
   - no anticoagulation
   - will need antibiotics per ENT for coverage:
        - stop current Abx (Vanc / Zosyn) as not needed anymore
        - start Clindamycin for ENT coverage, clarify need and length w/
   ENT today
   .
   #. RLE DVT - DVT on OSH right LENI, no si/sx of PE or HD instability.
   Not an anticoagulation candidate given recent bleeding. Likely [**1-27**]
   decreased mobility at rehab and malignancy.  Had IVC filter placed
   [**2177-4-30**].  No si/sx to raise concern for PE.
   - no anticoagulation given recent bleed, s/p IVC filter placement
   .
   # Leukocytosis: New in setting of events yesterday. He has not spike a
   temp in 24 hrs, and no obvious localizing source. Given bleeding into
   OP and possibly airways yesterday, there is concern for
   pneumonitis/recurrent aspiration pna. Sputum Cx re-sent. CXR improved
   today AM. Diff w/ 86% PMNs.  Already on Vanc / Zosyn.
   - f/u sputum cx data
   - send blood, urine cx as well
   - stop Vanc / Zosyn today, start Clinda as above for ENT coverage
   .
   #. Aspiration PNA - Pt has h/o aspiration PNA, due to complete 10-day
   course of Ceftaz and Vanco today. Sputum cx here consistent with MSSA
   but has had MRSA in past. Now with new RLL infiltrate on CXRs this
   admission as well as elevated WBC.
   - f/u sputum culture
   - d/c Vanc / Zosyn today as he has completed a 10 day course
   - cont aspiration precautions, trache care, nebulizers
   .
   #. Laryngeal Ca - Complicated by recent right inferior thyroid artery
   bleed s/p coil embolization [**3-/2177**] by IR. S/p trache and PEG.
   - f/u onc and rad onc recs
   - percocet PRN pain
   - Spoke to Dr. [**Last Name (STitle) 2760**] in [**Hospital3 1959**]
   .
   #. Hypertension - Currently normo-tensive, was hypertensive yesterday.
   Per ENT, needs improved control w/ SBP 120s.
   - cont home lisinopril 40mg daily
   - consider adding BB as needed (prefer IV Labetalol)
   .
   #. Anemia - Stable from recent baseline 25-28. Likely secodary to bleed
   and inflammation. Fe-studies suggest anemia of chronic disease.
   - continue to monitor closely, esp. in setting of bleeding
   - s/p 2U PRBC on [**4-30**]
   .
   #. Hyponatremia - Chronic, at baseline. Appears to be hypovolemic, but
   could consider contribution from SIADH. Serum and urine Osms pending.
   - f/u Osms-> c/w SIADH, so will fluid restrict
   - continue to monitor
   .
   #. COPD - No current complaints of SOB or dypnea, increased cough or
   change in sputum production.
   - continue home nebs
   .
   #. s/p CVA: No active issues. Not on ASA secondary to bleed.
   .
   #. FEN - NPO for procedure, IVF, replete lytes PRN
   #. PPx - SQ Heparin, H2B, bowel regimen
   #. Access - Rt PICC
   #. FULL CODE
   #. Dispo - ICU
   ICU Care
   Nutrition: hold TFs until clarified w/ Rad-Onc, afterwards re-start
   Glycemic Control:
   Lines:
   PICC Line - [**2177-4-30**] 04:22 AM
   18 Gauge - [**2177-4-30**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition:ICU

2177-05-01 08:06:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note bellow.
   Chief Complaint:  hemoptysis, bleeding from trach
   HPI: 67 yo male pmh sig for hx of CVA, hyponatremia, SCC of larynx.
   s/p embolization of right inferior thyroid artery on [**2177-4-21**].
   [**Hospital **] transferred to rehab found to have DVT right leg and tx
   back to [**Hospital1 19**] last night for filter placement.  On floor stable around
   3-4am noted bleeding from trach, 150cc blood suctioned from trach.
   Filled cuff and transferred for monitoring.  ENT visualized trach and
   suspected bleeding from mass.  Completeing course of antibiotics for
   suspected aspiration PNA from prior admission.
   24 Hour Events:
   Rebleed packed by ENT went to IR and had filter and
 INVASIVE VENTILATION - START [**2177-4-30**] 01:00 PM
 ANGIOGRAPHY - At [**2177-4-30**] 03:15 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2177-4-30**] 05:32 AM
   Vancomycin - [**2177-4-30**] 08:00 PM
   Cefipime - [**2177-4-30**] 10:00 PM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-4-30**] 09:00 AM
   Lorazepam (Ativan) - [**2177-4-30**] 12:50 PM
   Propofol - [**2177-4-30**] 01:15 PM
   Vecuronium - [**2177-4-30**] 01:30 PM
   Labetalol - [**2177-4-30**] 02:15 PM
   Ranitidine (Prophylaxis) - [**2177-4-30**] 08:00 PM
   Other medications:
   MVI
   Allopurinol
   thiamine
   zantac 150 [**Hospital1 **]
   lisinopril 40mg po qday
   folic acid
   Hep SQ tid
   Vanc 1g Q12
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-1**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 87 (78 - 105) bpm
   BP: 137/72(87) {121/66(80) - 179/91(111)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,513 mL
                                                                    342 mL
   PO:
             TF:
   IVF:
                                                                  2,154 mL
                                                                    342 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,580 mL
                                                                    370 mL
   Urine:
                                                                  1,580 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    933 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/45/170/27/5
   Ve: 8.5 L/min
   PaO2 / FiO2: 425
   Physical Examination
   GEN:Chronically ill appearing, pleasant, NAD, frequently suctioning
   copious secretions from Trach Mask with Yankauer
   HEENT: NC/AT, PERRL/EOMI, sclera anicteric, MM dry OP clear with thick
   clear secretions, poor dentition
   CV: Distant. RRR No m/r/g
   Resp: Coarse rhonchorous BS throughout. Diffuse soft expiratory
   wheezing.
   Abd: Soft. NT/ND +BS. No HSM   G tube in place
   Ext: 2+RLE edema to upper calf with erythema. Trace edema LLE. No calf
   tenderness. Picc CDI
   Neuro: A&Ox3. CNs [**2-6**] intact.
   Labs / Radiology
   9.7 g/dL
   488 K/uL
   116 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   13 mg/dL
   95 mEq/L
   130 mEq/L
   27.8 %
   18.0 K/uL
        [image002.jpg]
                             [**2177-4-30**]  10:37 AM
                             [**2177-4-30**]  08:40 PM
                             [**2177-4-30**]  08:58 PM
                             [**2177-4-30**]  09:59 PM
                             [**2177-5-1**]  04:06 AM
   WBC
   12.2
   18.0
   Hct
   25.6
   29.1
   27.8
   Plt
   559
   488
   Cr
   0.5
   0.5
   TCO2
   31
   Glucose
   112
   116
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   67-yo man w/ SCC of the larynx s/p coil embolization of right inferior
   thyroid artery for hypopharyngeal bleed [**3-/2177**], s/p trache and PEG
   [**3-/2177**], admitted for right LE DVT, now w/ significant bleeding from
   trache site.
   #. Bleeding from trache site - Resolved on transfer to ICU. ENT eval
   suspects secondary to tumor.
   - continue to monitor
   - Inflat cuff
   - frequent careful suctioning
   - appreciate ENT involvement, will likely need laryngoscopy to assess
   source
   - maintain active T&S
   - no anticoagulation
   -IR if bleeds again.
   #. RLE DVT - DVT on OSH right LENI, no si/sx of PE or HD instability.
   Not an anticoagulation candidate given recent bleeding. Likely [**1-27**]
   decreased mobility at rehab and malignancy.
   - no anticoagulation given recent bleed
   - monitor for HD instability, SOB, hypoxia given potential for PE
   - IR-guided IVC filter placement tomorrow
   #. Aspiration PNA - Pt has h/o aspiration PNA, Will continue current
   abx until issue resolved.   Sputum cx here consistent with MSSA but has
   had MRSA in past. Now with new LLL infiltrate on CXRs this admission as
   well as elevated WBC.  If no sputum and no fever and cx negative will
   d
c antibiotics.
   - Will calarify O2 requirement on transfer back to rehab and x-ray
   suggestive of new process
   - send sputum culture
   - continue antibiotics pending sputum culture data
   - Will check US of left to evaluate for effusion.
   - frequent careful suctioning
   - aspiration precautions
   - trache care
   - continue nebs
   -Will repeat x-ray tomorrow
   #. Laryngeal Ca - Complicated by recent right inferior thyroid artery
   bleed s/p coil embolization [**3-/2177**] by IR. S/p trache and PEG.
   - f/u for chemoradiation and teeth extraction as outpatient
   - percocet prn pain
   #. Hypertension - Currently normo-tensive.
   - cont home lisinopril 40mg daily
   - consider adding additional agents if elevated
   #. Anemia - Stable from recent baseline 25-28. Likely secodary to bleed
   and inflammation. Fe-studies suggest anemia of chronic disease.
   - continue to monitor, esp. in setting of bleeding
   #. Hyponatremia - Chronic, at baseline. Appears to be hypovolemic, but
   could consider contribution from SIADH. Serum and urine Osms pending.
   -Will fluid restrict if consistent with SIADH
   - f/u Osms
   - continue to monitor  f/u repeat lytes.
   #. COPD - No current complaints of SOB or dypnea, increased cough or
   change in sputum production.
   - continue nebs standing
   #. s/p CVA: No active issues. Not on ASA secondary to bleed.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEMOPTYSIS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-4-30**] 04:22 AM
   18 Gauge - [**2177-4-30**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2177-05-01 19:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-4-30**] 01:00 PM
 ANGIOGRAPHY - At [**2177-4-30**] 03:15 PM
   [**Hospital **] transferred to [**Hospital Unit Name 1**] from MICU green for rad onc for bleeding
   hypopharyngeal mass.
   -Received marking and first session of radiation this afternoon with
   plan to repeat tomorrow.
   -serial Hcts stable
   -Seen by medical oncology, want palliative XRT for now, then complete
   staging with CT and dental work prior to continuing XRT and initiating
   chemo which would likely be as outpatient.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2177-4-30**] 05:32 AM
   Cefipime - [**2177-4-30**] 10:00 PM
   Vancomycin - [**2177-5-1**] 08:00 AM
   Clindamycin - [**2177-5-1**] 12:15 PM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2177-4-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-5-1**] 04:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-1**] 07:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 84 (81 - 92) bpm
   BP: 131/70(84) {121/66(80) - 160/85(101)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,513 mL
                                                                  1,142 mL
   PO:
             TF:
   IVF:
                                                                  2,154 mL
                                                                  1,022 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,580 mL
                                                                    900 mL
   Urine:
                                                                  1,580 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    933 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.46/43/124/27/6
   Ve: 7.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Thin, sedated
   HEENT: PERRL, mouth is packed with gauze
   CV: Distant. RRR No m/r/g
   Resp: Coarse rhonchorous BS throuhgout. No w/r
   Abd: Soft. NTND +BS. No HSM
   Ext: 2+RLE edema to upper calf with erythema. Trace edema LLE
   Labs / Radiology
   488 K/uL
   9.7 g/dL
   116 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   13 mg/dL
   95 mEq/L
   130 mEq/L
   28.0 %
   18.0 K/uL
        [image002.jpg]
                             [**2177-4-30**]  10:37 AM
                             [**2177-4-30**]  08:40 PM
                             [**2177-4-30**]  08:58 PM
                             [**2177-4-30**]  09:59 PM
                             [**2177-5-1**]  04:06 AM
                             [**2177-5-1**]  10:17 AM
                             [**2177-5-1**]  03:19 PM
   WBC
   12.2
   18.0
   Hct
   25.6
   29.1
   27.8
   29
   28.0
   Plt
   559
   488
   Cr
   0.5
   0.5
   TCO2
   31
   32
   Glucose
   112
   116
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:85.6 %,
   Lymph:7.2 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEMOPTYSIS
   67-yo man w/ SCC of the larynx s/p coil embolization of right inferior
   thyroid artery for hypopharyngeal bleed [**3-/2177**], s/p trache and PEG
   [**3-/2177**], admitted for right LE DVT, now w/ significant bleeding from
   trache site.
   .
   #. Bleeding from trach site - Initially stable upon arrival to ICU;
   however, on hosp day 2, developed slow, persistant bleeding around
   trachea and into posterior oropharynx. Packed by ENT and now s/p
   embolization of sup/inf thyroid artery by neuron IR. Hct currently
   stable.
   - if rebleeds, family would want aggressive ENT surgery
   - s/p mapping and first session XRT today, to continue tomorrow.
   - appreciate ENT, Rad-Onc involvement
 ENT plans to remove packing
   tomorrow.  Med onc wants dental work and CT head and neck, hold off on
   CT today given recent dye load in IR.  Readdress in 24-48 hours after
   monitoring creatinine.
   - follow-up Oncology recs regarding additional chemo (? Cisplatin), to
   be started as outpatient.
   - maintain active T&S
   - no anticoagulation
   - will need antibiotics per ENT for coverage:
        - stopped current Abx (Vanc / Zosyn) [**4-30**] as not needed anymore
        - start Clindamycin for ENT coverage, clarify need and length w/
   ENT
   .
   # Mechanically ventilated:  Placed on ventilator for further airway
   protection in the setting of refractory bleeding around trach site.
   Decrease Fi02 tonight given most recent ABG with Pa02 124, repeat at
   11pm.  Keep ventilated overnight and tomorrow while packing removed and
   for next rad onc session. Re-eval bleeding prior to consideration of
   extubation.
   .
   #. RLE DVT - DVT on OSH right LENI, no si/sx of PE or HD instability.
   Not an anticoagulation candidate given recent bleeding. Likely [**1-27**]
   decreased mobility at rehab and malignancy.  Had IVC filter placed
   [**2177-4-30**].  No si/sx to raise concern for PE.
   - no anticoagulation given recent bleed, s/p IVC filter placement
   .
   # Leukocytosis: New in setting of events yesterday. He has not spike a
   temp in 24 hrs, and no obvious localizing source. Given bleeding into
   OP and possibly airways yesterday, there is concern for
   pneumonitis/recurrent aspiration pna. Sputum Cx re-sent. CXR improved
   today AM. Diff w/ 86% PMNs.
   - f/u sputum cx data
   - send blood, urine cx as well
   - stopped Vanc / Zosyn, start Clinda as above for ENT coverage
   .
   #. Aspiration PNA - Pt has h/o aspiration PNA, due to complete 10-day
   course of Ceftaz and Vanco today. Sputum cx here consistent with MSSA
   but has had MRSA in past. Now with new RLL infiltrate on CXRs this
   admission as well as elevated WBC.
   - f/u sputum culture
   - d/c
d today as he has completed a 10 day course
   - cont aspiration precautions, trache care, nebulizers
   .
   #. Laryngeal Ca - Complicated by recent right inferior thyroid artery
   bleed s/p coil embolization [**3-/2177**] by IR. S/p trache and PEG.
   - f/u onc and rad onc recs as above
   - Green team spoke to Dr. [**Last Name (STitle) 2760**] in [**Hospital3 1959**]
   .
   #. Hypertension - Currently normo-tensive, was hypertensive yesterday.
   Per ENT, needs improved control w/ SBP 120s.
   - cont home lisinopril 40mg daily
   - consider adding BB as needed (prefer IV Labetalol)
   .
   #. Anemia - Stable from recent baseline 25-28. Likely secodary to bleed
   and inflammation. Fe-studies suggest anemia of chronic disease.
   - continue to monitor closely, esp. in setting of bleeding
   - s/p 2U PRBC on [**4-30**]
   .
   #. Hyponatremia - Chronic, at baseline. Appears to be hypovolemic, but
   could consider contribution from SIADH. Serum and urine Osms pending.
   - f/u Osms-> c/w SIADH, so will fluid restrict
   - continue to monitor
   .
   #. COPD - No current complaints of SOB or dypnea, increased cough or
   change in sputum production.
   - continue home nebs
   .
   #. s/p CVA: No active issues. Not on ASA secondary to bleed.
   .
   #. FEN - TF, IVF until at goal, replete lytes PRN
   #. PPx - SQ Heparin, H2B, bowel regimen
   #. Access - Rt PICC
   #. FULL CODE
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-4-30**] 04:22 AM
   18 Gauge - [**2177-4-30**] 02:00 PM
   Prophylaxis:
   DVT: IVC filter, Hep SC, pneumobotts
   Stress ulcer: H2B
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2177-05-02 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient received radiation yesterday.
   He remained on the vent overnight.
   ENT removed packing the am.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2177-4-30**] 05:32 AM
   Cefipime - [**2177-4-30**] 10:00 PM
   Vancomycin - [**2177-5-1**] 08:00 AM
   Clindamycin - [**2177-5-2**] 06:32 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-5-1**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-2**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.5
C (95.9
   HR: 73 (73 - 92) bpm
   BP: 118/67(80) {116/65(78) - 160/85(101)} mmHg
   RR: 12 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,468 mL
                                                                    933 mL
   PO:
             TF:
             71 mL
   IVF:
                                                                  1,278 mL
                                                                    782 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    455 mL
   Urine:
                                                                  1,130 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    338 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.39/55/148/30/7
   Ve: 5.9 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: Thin, sedated
   HEENT: PERRL, Neck swollen, trached.
   CV: Distant. RRR No m/r/g
   Resp: Coarse rhonchorous BS throuhgout. No w/r
   Abd: Soft. NTND +BS. No HSM
   Ext: 2+RLE edema to upper calf with erythema. Trace edema LLE
   Labs / Radiology
   419 K/uL
   9.2 g/dL
   105 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.3 mEq/L
   10 mg/dL
   96 mEq/L
   132 mEq/L
   26.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2177-4-30**]  10:37 AM
                             [**2177-4-30**]  08:40 PM
                             [**2177-4-30**]  08:58 PM
                             [**2177-4-30**]  09:59 PM
                             [**2177-5-1**]  04:06 AM
                             [**2177-5-1**]  10:17 AM
                             [**2177-5-1**]  03:19 PM
                             [**2177-5-2**]  04:17 AM
                             [**2177-5-2**]  04:56 AM
   WBC
   12.2
   18.0
   11.4
   Hct
   25.6
   29.1
   27.8
   29
   28.0
   26.8
   Plt
   [**Telephone/Fax (3) 7417**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   31
   32
   35
   Glucose
   112
   116
   105
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:85.6 %,
   Lymph:7.2 %, Mono:6.2 %, Eos:0.6 %, Albumin:2.5 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   67-yo man w/ SCC of the larynx s/p coil embolization of right inferior
   thyroid artery for hypopharyngeal bleed [**3-/2177**], s/p trache and PEG
   [**3-/2177**], admitted for right LE DVT, now w/ significant bleeding from
   trache site.
   .
   #. Bleeding from trach site - Initially stable upon arrival to ICU;
   however, on hosp day 2, developed slow, persistant bleeding around
   trachea and into posterior oropharynx. Packed by ENT and now s/p
   embolization of sup/inf thyroid artery by neuron IR. Hct currently
   stable.  Patient was unpacked on [**2177-5-2**] with resolution of the
   bleeding.  We will hold off on getting a CT as recent radiation will
   increase artifact and it likely will not change treatment.
   - if rebleeds, family would want aggressive ENT surgery
   - Continue XRT to head/neck for bleeding control.
   - appreciate ENT, Rad-Onc involvement.
   - follow-up Oncology recs regarding additional chemo (? Cisplatin), to
   be started as outpatient.
   - maintain active T&S
   - no anticoagulation
   - will need antibiotics per ENT for coverage:
        - stopped current Abx (Vanc / Zosyn) [**4-30**] as not needed anymore
        - start Clindamycin for ENT coverage, clarify need and length w/
   ENT
   .
   # Mechanically ventilated:  Placed on ventilator for further airway
   protection in the setting of refractory bleeding around trach site.
   Decrease Fi02 tonight given most recent ABG with Pa02 124, repeat at
   11pm.  Keep ventilated overnight and tomorrow while packing removed and
   for next rad onc session. Re-eval bleeding prior to dropping cuff on
   trach.  If not actively bleeding may be able to drop cuff and use trach
   mask.
   -Trial of PS
 attempt to keep off vent.
   .
   #. RLE DVT - DVT on OSH right LENI, no si/sx of PE or HD instability.
   Not an anticoagulation candidate given recent bleeding. Likely [**1-27**]
   decreased mobility at rehab and malignancy.  Had IVC filter placed
   [**2177-4-30**].  No si/sx to raise concern for PE.
   -no anticoagulation given recent bleed, s/p IVC filter placement
   - Cont hep SC
   .
   # Leukocytosis: New in setting of events yesterday. He has not spike a
   temp in 24 hrs, and no obvious localizing source. Given bleeding into
   OP and possibly airways yesterday, there is concern for
   pneumonitis/recurrent aspiration pna. Sputum Cx re-sent. CXR improved
   today AM. Diff w/ 86% PMNs.  WBC improved after switching to clinda.
   - f/u sputum cx data
   - send blood, urine cx as well
   - stopped Vanc / Zosyn, start Clinda as above for ENT coverage
   .
   #. Aspiration PNA - Pt has h/o aspiration PNA, has comlpeted 10-day
   course of Ceftaz and Vanco. Sputum cx here consistent with MSSA but has
   had MRSA in past. Now with new RLL infiltrate on CXRs this admission as
   well as elevated WBC.
   - f/u sputum culture
   - d/c
d today as he has completed a 10 day course
   - cont aspiration precautions, trache care, nebulizers
   .
   #. Laryngeal Ca - Complicated by recent right inferior thyroid artery
   bleed s/p coil embolization [**3-/2177**] by IR. S/p trache and PEG.
   - f/u onc and rad onc recs as above
   - Green team spoke to Dr. [**Last Name (STitle) 2760**] in [**Hospital3 1959**]
   .
   #. Hypertension - Currently normo-tensive, was hypertensive yesterday.
   Per ENT, needs improved control w/ SBP 120s.
   - cont home lisinopril 40mg daily
   - consider adding BB as needed (prefer IV Labetalol)
   .
   #. Anemia - Stable from recent baseline 25-28. Likely secodary to bleed
   and inflammation. Fe-studies suggest anemia of chronic disease.
   - continue to monitor closely, esp. in setting of bleeding
   - s/p 2U PRBC on [**4-30**]
   .
   #. Hyponatremia - Chronic, at baseline. Appears to be hypovolemic, but
   could consider contribution from SIADH. Serum and urine Osms pending.
   - f/u Osms-> c/w SIADH, so will fluid restrict
   - continue to monitor
   .
   #. COPD - No current complaints of SOB or dypnea, increased cough or
   change in sputum production.
   - continue home nebs
   .
   #. s/p CVA: No active issues. Not on ASA secondary to bleed.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2177-5-2**] 02:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-4-30**] 04:22 AM
   18 Gauge - [**2177-4-30**] 02:00 PM
   Prophylaxis:
   DVT: IVC filter, Hep SC, pneumobotts
   Stress ulcer: H2B
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2177-05-02 09:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   SCCA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2177-5-1**] 02:06 PM
   pt. to [**Last Name (un) 7418**] 5 for mapping
   -Transfused overnight
   -Packing removed this morning without recurrent bleeding
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2177-4-30**] 05:32 AM
   Cefipime - [**2177-4-30**] 10:00 PM
   Vancomycin - [**2177-5-1**] 08:00 AM
   Clindamycin - [**2177-5-2**] 06:32 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-5-1**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-2**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.5
C (95.9
   HR: 73 (73 - 92) bpm
   BP: 118/67(80) {116/65(78) - 160/85(101)} mmHg
   RR: 12 (10 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,468 mL
                                                                  1,359 mL
   PO:
             TF:
             113 mL
   IVF:
                                                                  1,278 mL
                                                                  1,166 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    455 mL
   Urine:
                                                                  1,130 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    338 mL
                                                                    904 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/55/148/30/7
   Ve: 6.6 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Neck edema seen
   Lymphatic: Trach site clear, minimal bleeding
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   419 K/uL
   105 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.3 mEq/L
   10 mg/dL
   96 mEq/L
   132 mEq/L
   26.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2177-4-30**]  10:37 AM
                             [**2177-4-30**]  08:40 PM
                             [**2177-4-30**]  08:58 PM
                             [**2177-4-30**]  09:59 PM
                             [**2177-5-1**]  04:06 AM
                             [**2177-5-1**]  10:17 AM
                             [**2177-5-1**]  03:19 PM
                             [**2177-5-2**]  04:17 AM
                             [**2177-5-2**]  04:56 AM
   WBC
   12.2
   18.0
   11.4
   Hct
   25.6
   29.1
   27.8
   29
   28.0
   26.8
   Plt
   [**Telephone/Fax (3) 7417**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   31
   32
   35
   Glucose
   112
   116
   105
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:85.6 %,
   Lymph:7.2 %, Mono:6.2 %, Eos:0.6 %, Albumin:2.5 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR--L>R basilar infiltrates, deep left sulcus and will need
   radiology final [**Location (un) **].
   Assessment and Plan
   67 yo male with SCCA in larynx now with significant pharyngeal bleeding
   now s/p tracheostomy and packing for bleeding and has now undergone
   initial mapping and XRT.  He has had encouraging absence of bleeding
   following removal of packing.
   1)Respiratory Failure-
   -Clinda
   -Will move to wean sedation and pressure support and ideally TM trial
   when tolerated
   2) HEMOPTYSIS
Is s/p embolization, packing removed, no rebleed
   -Continue to watch with HCT for possible drop
   -Repeat CT when XRT stabilized
   3)DVT
Treatment complicated by significant upper airway bleeding
   -IVC filter in place
   ICU Care
   Nutrition: Tube feeds would be a goal
   Nutren Pulmonary (Full) - [**2177-5-2**] 02:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-4-30**] 04:22 AM
   18 Gauge - [**2177-4-30**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2177-05-03 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hemoptysis, transferred from MICU green for XRT to
   laryngeal cancer
   24 Hour Events:
   -ENT recs- will repack if actively bleeding, keep sedated for now,
   -rad-onc recs- none
   -onc recs- when starting date for definitive xRT is established they
   will consider concurrent chemo (cisplatin or carbiplatin vs cetuximab).
   Can be arranged as inpatient or outpatient.
   -CXR- Increasing vascular congestion, pleural effusions.
   -no overnight events, kept on pressure support via trach vent, [**4-29**],
   completely awake, alert and oriented
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2177-4-30**] 10:00 PM
   Vancomycin - [**2177-5-1**] 08:00 AM
   Clindamycin - [**2177-5-3**] 06:05 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2177-5-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-5-3**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-3**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 86 (65 - 89) bpm
   BP: 138/72(83) {94/47(61) - 143/72(88)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,362 mL
                                                                    550 mL
   PO:
             TF:
                                                                    510 mL
                                                                    366 mL
   IVF:
                                                                  2,382 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    490 mL
   Urine:
                                                                  1,580 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,782 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 870) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 9 L/min
   Physical Examination
   General Appearance: thin, sedated
   HEENT: PERRL, neck swollen, trached.
   CV: Distant. RRR No m/r/g
   Resp: coarse rhonchorous BS throughout. No w/r
   Abd: Soft. NTND +BS. No HSM
   Ext: 2+RLE edema to upper calf with erythema. Trace edema LLE
   Labs / Radiology
   401 K/uL
   8.9 g/dL
   106 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   10 mg/dL
   97 mEq/L
   134 mEq/L
   26.4 %
   10.1 K/uL
        [image002.jpg]
                             [**2177-4-30**]  08:40 PM
                             [**2177-4-30**]  08:58 PM
                             [**2177-4-30**]  09:59 PM
                             [**2177-5-1**]  04:06 AM
                             [**2177-5-1**]  10:17 AM
                             [**2177-5-1**]  03:19 PM
                             [**2177-5-2**]  04:17 AM
                             [**2177-5-2**]  04:56 AM
                             [**2177-5-2**]  03:48 PM
                             [**2177-5-3**]  04:12 AM
   WBC
   18.0
   11.4
   11.5
   10.1
   Hct
   29.1
   27.8
   29
   28.0
   26.8
   27.3
   26.4
   Plt
   488
   419
   436
   401
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   31
   32
   35
   Glucose
   112
   116
   105
   92
   106
   Other labs: PT / PTT / INR:12.2/26.4/1.0, Differential-Neuts:85.6 %,
   Lymph:7.2 %, Mono:6.2 %, Eos:0.6 %, Albumin:2.5 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   A 67 yo man w/ SCC of the larynx s/p coil embolization of right
   inferior thyroid artery for hypopharyngeal bleed [**3-/2177**], s/p trache and
   PEG [**3-/2177**], admitted for right LE DVT, now w/ significant bleeding from
   trache site.
   .
   #. Bleeding from trach site - Initially stable upon arrival to ICU;
   however, on hosp day 2, developed slow, persistant bleeding around
   trachea and into posterior oropharynx. Packed by ENT and now s/p
   embolization of sup/inf thyroid artery by neuron IR. Hct currently
   stable.  Patient was unpacked on [**2177-5-2**] with resolution of the
   bleeding.  We will hold off on getting a CT as recent radiation will
   increase artifact and it likely will not change treatment.
   - if rebleeds, family would want aggressive ENT surgery
   - Continue XRT to head/neck for bleeding control.
   - appreciate ENT, Rad-Onc involvement.
   - follow-up Oncology recs regarding additional chemo (? Cisplatin), to
   be started as outpatient.
   - maintain active T&S
   - no anticoagulation
   - will need antibiotics per ENT for coverage:
        - stopped current Abx (Vanc / Zosyn) [**4-30**] as not needed anymore
        - start Clindamycin for ENT coverage, clarify need and length w/
   ENT
   .
   # Mechanically ventilated:  Placed on ventilator for further airway
   protection in the setting of refractory bleeding around trach site.
   Decrease Fi02 tonight given most recent ABG with Pa02 124, repeat at
   11pm.  Keep ventilated overnight and tomorrow while packing removed and
   for next rad onc session. Re-eval bleeding prior to dropping cuff on
   trach.  If not actively bleeding may be able to drop cuff and use trach
   mask.
   -Trial of PS
 attempt to keep off vent.
   .
   #. RLE DVT - DVT on OSH right LENI, no si/sx of PE or HD instability.
   Not an anticoagulation candidate given recent bleeding. Likely [**1-27**]
   decreased mobility at rehab and malignancy.  Had IVC filter placed
   [**2177-4-30**].  No si/sx to raise concern for PE.
   -no anticoagulation given recent bleed, s/p IVC filter placement
   - Cont hep SC
   .
   # Leukocytosis: New in setting of events yesterday. He has not spike a
   temp in 24 hrs, and no obvious localizing source. Given bleeding into
   OP and possibly airways yesterday, there is concern for
   pneumonitis/recurrent aspiration pna. Sputum Cx re-sent. CXR improved
   today AM. Diff w/ 86% PMNs.  WBC improved after switching to clinda.
   - f/u sputum cx data
   - send blood, urine cx as well
   - stopped Vanc / Zosyn, start Clinda as above for ENT coverage
   .
   #. Aspiration PNA - Pt has h/o aspiration PNA, has comlpeted 10-day
   course of Ceftaz and Vanco. Sputum cx here consistent with MSSA but has
   had MRSA in past. Now with new RLL infiltrate on CXRs this admission as
   well as elevated WBC.
   - f/u sputum culture
   - d/c
d today as he has completed a 10 day course
   - cont aspiration precautions, trache care, nebulizers
   .
   #. Laryngeal Ca - Complicated by recent right inferior thyroid artery
   bleed s/p coil embolization [**3-/2177**] by IR. S/p trache and PEG.
   - f/u onc and rad onc recs as above
   - Green team spoke to Dr. [**Last Name (STitle) 2760**] in [**Hospital3 1959**]
   .
   #. Hypertension - Currently normo-tensive, was hypertensive yesterday.
   Per ENT, needs improved control w/ SBP 120s.
   - cont home lisinopril 40mg daily
   - consider adding BB as needed (prefer IV Labetalol)
   .
   #. Anemia - Stable from recent baseline 25-28. Likely secodary to bleed
   and inflammation. Fe-studies suggest anemia of chronic disease.
   - continue to monitor closely, esp. in setting of bleeding
   - s/p 2U PRBC on [**4-30**]
   .
   #. Hyponatremia - Chronic, at baseline. Appears to be hypovolemic, but
   could consider contribution from SIADH. Serum and urine Osms pending.
   - f/u Osms-> c/w SIADH, so will fluid restrict
   - continue to monitor
   .
   #. COPD - No current complaints of SOB or dypnea, increased cough or
   change in sputum production.
   - continue home nebs
   .
   #. s/p CVA: No active issues. Not on ASA secondary to bleed.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2177-5-2**] 11:45 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-4-30**] 04:22 AM
   18 Gauge - [**2177-4-30**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-05-03 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2177-5-2**] 02:25 PM
   No bleeding or overnight events. Last transfusion on [**2177-4-30**]
   Tolerated PS on vent
   History obtained from Patient, limited as trached
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2177-4-30**] 10:00 PM
   Vancomycin - [**2177-5-1**] 08:00 AM
   Clindamycin - [**2177-5-3**] 06:05 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2177-5-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-5-3**] 08:00 AM
   Other medications: reviewed. Off propofol drip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-3**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 81 (68 - 89) bpm
   BP: 124/60(76) {100/47(61) - 143/72(88)} mmHg
   RR: 9 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,362 mL
                                                                    745 mL
   PO:
             TF:
                                                                    510 mL
                                                                    490 mL
   IVF:
                                                                  2,382 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    800 mL
   Urine:
                                                                  1,580 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,782 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 781 (400 - 870) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/48/131/30/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Trach, Neck swollen
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : distant)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   401 K/uL
   106 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   10 mg/dL
   97 mEq/L
   134 mEq/L
   26.4 %
   10.1 K/uL
        [image002.jpg]
                             [**2177-4-30**]  08:58 PM
                             [**2177-4-30**]  09:59 PM
                             [**2177-5-1**]  04:06 AM
                             [**2177-5-1**]  10:17 AM
                             [**2177-5-1**]  03:19 PM
                             [**2177-5-2**]  04:17 AM
                             [**2177-5-2**]  04:56 AM
                             [**2177-5-2**]  03:48 PM
                             [**2177-5-3**]  04:12 AM
                             [**2177-5-3**]  08:06 AM
   WBC
   18.0
   11.4
   11.5
   10.1
   Hct
   29.1
   27.8
   29
   28.0
   26.8
   27.3
   26.4
   Plt
   488
   419
   436
   401
   Cr
   0.5
   0.5
   0.5
   0.4
   TCO2
   31
   32
   35
   34
   Glucose
   116
   105
   92
   106
   Other labs: PT / PTT / INR:12.2/26.4/1.0, Differential-Neuts:85.6 %,
   Lymph:7.2 %, Mono:6.2 %, Eos:0.6 %, Lactic Acid:0.6 mmol/L, Albumin:2.5
   g/dL, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR [**5-2**] reviewed
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEMOPTYSIS
   67 yo male with SCCA in larynx now with significant pharyngeal bleeding
   now s/p tracheostomy and packing for bleeding and has now undergone
   initial mapping and XRT.  He has had encouraging absence of bleeding
   following removal of packing. [**Name8 (MD) 54**] RN, trach suctioning without blood
   now.
   1) Respiratory Failure-
   -tolerating PSV, TM trial today
   -continue with Clinda
   2) HEMOPTYSIS
s/p embolization, packing removed, no rebleed
   -Continue to watch with HCT for possible drop
   -Repeat CT when XRT stabilized
   3) DVT
Treatment complicated by significant upper airway bleeding
   -IVC filter in place
   4) Laryngeal ca
 will need to discuss patient
s wishes for surgery if
   he rebleeds as he was sedated during family meeting.
   ICU Care
   Nutrition: Nutren
   Glycemic Control:
   Lines:
   PICC Line - [**2177-4-30**] 04:22 AM
   18 Gauge - [**2177-4-30**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2177-05-04 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Taken off vent without complications
   -Onc: d/c abx, gentle mouth care x 1 wk, ?dental work
   -PM Hct stable
   No bleeding. Pt without pain.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2177-5-1**] 08:00 AM
   Clindamycin - [**2177-5-3**] 02:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2177-5-3**] 08:23 PM
   Heparin Sodium (Prophylaxis) - [**2177-5-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-4**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 76 (75 - 93) bpm
   BP: 122/56(73) {117/56(73) - 159/90(101)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,834 mL
                                                                    490 mL
   PO:
             TF:
                                                                  1,372 mL
                                                                    420 mL
   IVF:
                                                                    342 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    480 mL
   Urine:
                                                                  1,595 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 781 (781 - 781) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.45/48/131/33/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: thin, sedated. Awake, answers questions
   appropriately.
   HEENT: PERRL, neck swollen, trached.
   CV: Distant. RRR No m/r/g
   Resp: coarse rhonchorous BS throughout. No w/r
   Abd: Soft. NTND +BS. No HSM
   Ext: 2+RLE edema to upper calf with erythema. Trace edema LLE
   Labs / Radiology
   425 K/uL
   8.8 g/dL
   116 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.1 mEq/L
   14 mg/dL
   99 mEq/L
   135 mEq/L
   26.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2177-5-1**]  04:06 AM
                             [**2177-5-1**]  10:17 AM
                             [**2177-5-1**]  03:19 PM
                             [**2177-5-2**]  04:17 AM
                             [**2177-5-2**]  04:56 AM
                             [**2177-5-2**]  03:48 PM
                             [**2177-5-3**]  04:12 AM
                             [**2177-5-3**]  08:06 AM
                             [**2177-5-3**]  02:23 PM
                             [**2177-5-4**]  05:26 AM
   WBC
   18.0
   11.4
   11.5
   10.1
   11.8
   Hct
   27.8
   29
   28.0
   26.8
   27.3
   26.4
   26.1
   26.0
   Plt
   488
   419
   436
   401
   425
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   TCO2
   32
   35
   34
   Glucose
   116
   105
   92
   106
   116
   Other labs: PT / PTT / INR:12.2/26.4/1.0, Differential-Neuts:85.6 %,
   Lymph:7.2 %, Mono:6.2 %, Eos:0.6 %, Lactic Acid:0.6 mmol/L, Albumin:2.5
   g/dL, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A 67 yo man with SCC of the larynx s/p coil embolization of right
   inferior thyroid artery for hypopharyngeal bleed [**3-/2177**], s/p
   tracheostomy and PEG [**3-/2177**], admitted for right LE DVT, now w/
   significant bleeding from trache site.
   # Bleeding from trach site - Initially stable upon arrival to ICU;
   however, on hosp day 2, developed slow, persistant bleeding around
   trachea and into posterior oropharynx. Packed by ENT and now s/p
   embolization of sup/inf thyroid artery by neuron IR. Hct currently
   stable.  Patient was unpacked on [**2177-5-2**] with resolution of the
   bleeding.  He underwent XRT on [**5-1**] and [**5-2**] and there have been no
   bleeding incidents since.
   -if rebleeds, family would want aggressive ENT surgery
 However this
   decision was made a while ago and may need to be readdressed with him
   and his family.
   -continue XRT to head/neck for bleeding control.
   -appreciate ENT, Rad-Onc involvement.
   -medical oncology notes suggest that chemotherapy could be started as
   outpatient with definitive XRT
   -maintain active T&S
   -no anticoagulation
   -will need antibiotics per ENT for coverage:
        - stopped current Abx (Vanc / Zosyn) [**4-30**] as not needed anymore
        - start Clindamycin for ENT coverage, clarify need and length w/
   ENT
   # Mechanically ventilated:  Patient now weaned off to trach mask and
   doing well.
   # RLE DVT - DVT on OSH right LENI, no si/sx of PE or HD instability.
   Not an anticoagulation candidate given recent bleeding. Likely [**1-27**]
   decreased mobility at rehab and malignancy.  Had IVC filter placed
   [**2177-4-30**].  No si/sx to raise concern for PE.
   -no anticoagulation given recent bleed, s/p IVC filter placement
   -continue HSQ
   # Leukocytosis: No new infectious source found. WBC improving on clinda
   and he has reached a baseline [**10-5**].
   -f/u sputum cx data
   -continue Clindamycin as above for ENT coverage
   # Aspiration PNA
 Completed course of ABX for asp pna for MRSA.
   -Cont asp precautions.
   # Laryngeal Ca - Complicated by recent right inferior thyroid artery
   bleed s/p coil embolization [**3-/2177**] by IR. S/p trache and PEG. Will
   begin chemotherapy likely as outpatient.
   # Hypertension - Currently normo-tensive, was hypertensive yesterday.
   Per ENT, needs improved control w/ SBP 120s.
   -cont home lisinopril 40 mg daily
   -consider adding BB as needed (prefer IV Labetalol)
   # Anemia - Stable from recent baseline 25-28. Likely secondary to bleed
   and inflammation. Fe-studies suggest anemia of chronic disease.
   -continue to monitor closely, esp. in setting of bleeding
   -s/p 2U PRBC on [**4-30**]
   # Hyponatremia - Chronic, at baseline. Appears to be hypovolemic, but
   could consider contribution from SIADH. Serum and urine Osms pending.
   Sodium today WNL.
   -continue to monitor
   #. COPD - No current complaints of SOB or dypnea, increased cough or
   change in sputum production.
   -continue home nebs
   # S/p CVA: No active issues. Not on ASA secondary to bleed.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2177-5-4**] 12:10 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-4-30**] 04:22 AM
   Prophylaxis:
   DVT: HSQ / IVC filter
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Pt.
   Code status: Full code
   Disposition: ICU

2177-05-04 12:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2177-5-3**] 04:00 PM
   D/c Abx
   Stable overnight, tolerating TC
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2177-5-3**] 02:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2177-5-4**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-5-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-4**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 81 (76 - 93) bpm
   BP: 148/72(90) {122/52(72) - 159/90(101)} mmHg
   RR: 11 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,834 mL
                                                                    873 mL
   PO:
             TF:
                                                                  1,372 mL
                                                                    723 mL
   IVF:
                                                                    342 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    980 mL
   Urine:
                                                                  1,595 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach, neck swollen
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   425 K/uL
   116 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.1 mEq/L
   14 mg/dL
   99 mEq/L
   135 mEq/L
   26.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2177-5-1**]  04:06 AM
                             [**2177-5-1**]  10:17 AM
                             [**2177-5-1**]  03:19 PM
                             [**2177-5-2**]  04:17 AM
                             [**2177-5-2**]  04:56 AM
                             [**2177-5-2**]  03:48 PM
                             [**2177-5-3**]  04:12 AM
                             [**2177-5-3**]  08:06 AM
                             [**2177-5-3**]  02:23 PM
                             [**2177-5-4**]  05:26 AM
   WBC
   18.0
   11.4
   11.5
   10.1
   11.8
   Hct
   27.8
   29
   28.0
   26.8
   27.3
   26.4
   26.1
   26.0
   Plt
   488
   419
   436
   401
   425
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   TCO2
   32
   35
   34
   Glucose
   116
   105
   92
   106
   116
   Other labs: PT / PTT / INR:12.2/26.4/1.0, Differential-Neuts:85.6 %,
   Lymph:7.2 %, Mono:6.2 %, Eos:0.6 %, Lactic Acid:0.6 mmol/L, Albumin:2.5
   g/dL, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   67 yo male with SCCA in larynx now with significant pharyngeal bleeding
   now s/p tracheostomy and packing for bleeding and has now undergone
   initial mapping and XRT.  He has had encouraging absence of bleeding
   following removal of packing. [**Name8 (MD) 54**] RN, trach suctioning without blood
   now.
   1) Respiratory Failure-
   -tolerating PSV, TM trial today
   -continue with Clinda
   2) HEMOPTYSIS
s/p embolization, packing removed 2 days ago, no rebleed
   -Continue to watch Hct
   -Repeat CT when XRT stabilized
   3) DVT
t anticoagulate yet given recent bleeding.
   -IVC filter in place
   4) Laryngeal ca
 will need to discuss patient
s wishes for surgery if
   he rebleeds as he was sedated during family meeting.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2177-5-4**] 08:02 AM 60 mL/hour
   Glycemic Control:
   Lines:  PICC Line - [**2177-4-30**] 04:22 AM
   18 Gauge - [**2177-4-30**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes